US07192982B2
4-But-3-ynyloxy-biphenyl
A solution of 4-phenylphenol (0.774 g, 4.55 mmol) and potassium tert-butoxide (0.51 g, 4.55 mmol) in toluene (20 mL) was stirred for 1 h at room temperature. Sodium iodide (0.068 g, 0.45 mmol) and toluene-4-sulfonic acid but-3-ynyl ester (1.02 g, 4.55 mmol) were added, and the mixture heated to reflux for 24 hours. The mixture was cooled to room temperature, diluted with diethyl ether (20 mL), washed with water (2×20 mL). The organic layer was dried (MgSO4) and concentrated under vacuum. The residue was purified by silica gel chromatography (silica gel, hexanes/ethyl acetate 3:1, Rf0.57) to give an oil (140 mg, 14%). 1H-NMR (200.15 MHz, CDCl3): δ 7.57–7.50 (m, 4H), 7.46–7.38 (m, 2H), 7.32 (d, 1H, J=7.3), 7.02–6.95 (m, 2H), 4.15 (t, 2H, J=7.0), 2.71 (dt, 2H, J=2.7, 7.3), 2.06 (t, 1H, J=2.7).

reactant | 4-phenylphenol | 4.55 mmol, 0.774 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | potassium tert-butoxide | 4.55 mmol, 0.51 g | CC(C)([O-])C.[K+]
reactant | Sodium iodide | 0.45 mmol, 0.068 g | [I-].[Na+]
reactant | toluene-4-sulfonic acid but-3-ynyl ester | 4.55 mmol, 1.02 g | C(CC#C)OS(=O)(=O)C1=CC=C(C=C1)C | C11H12O3S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 4-But-3-ynyloxy-biphenyl | 140 mg, 14% | C(CC#C)OC1=CC=C(C=C1)C1=CC=CC=C1 | C16H14O
